### PR TITLE
Added cong and map to vec ≋ equality

### PR DESCRIPTION
**Pull request by guilhermehas**
I added these functions to the file `Data.Vec.Relation.Binary.Equality.Setoid`:
```agda
  cong-[]≔ : i p → xs ≋ ys → xs [ i ]≔ p ≋ ys [ i ]≔ p
  map-[]≔ : i (f : B → A) (xs : Vec B n) p → map f xs [ i ]≔ f p ≋ map f (xs [ i ]≔ p)
```

### CODE REVIEW

File: CHANGELOG.md [hunk 1]
```diff
@@ -2998,3 +2998,9 @@ This is a full list of proofs that have changed form to use irrelevant instance
   ```agda
   <-weakInduction-startingFrom : P i →  (∀ j → P (inject₁ j) → P (suc j)) → ∀ {j} → j ≥ i → P j
   ```
+
+* Added new functions to `Data.Vec.Relation.Binary.Equality.Setoid`
+  ```agda
+  cong-[]≔ : i p → xs ≋ ys → xs [ i ]≔ p ≋ ys [ i ]≔ p
```
Comment (jamesmckinna) [inline CHANGELOG.md:3004]: Usual custom with `CHANGELOG` is to omit inferrable arguments  from the statement... here `i` and `p`

File: CHANGELOG.md [hunk 2]
```diff
@@ -2998,3 +2998,9 @@ This is a full list of proofs that have changed form to use irrelevant instance
...
+  map-[]≔ : i (f : B → A) (xs : Vec B n) p → map f xs [ i ]≔ f p ≋ map f (xs [ i ]≔ p)
```
Comment (jamesmckinna) [inline CHANGELOG.md:3005]: Ditto here: no real need for any of `i`, `f`, `xs` or `p`.

But there's a separate issue: the ambient convention that equational/unfolding laws be stated in the form 
<more complex expression> goes to <simpler expression>
suggest that this should perhaps better be
```agda
map f (xs [ i ]≔ p)  ≋ map f xs [ i ]≔ f p
```
but I'd check this with @MatthewDaggitt or @gallais who know the conventions better than I do!

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda [hunk 3]
```diff
@@ -12,6 +12,7 @@ module Data.Vec.Relation.Binary.Equality.Setoid
   {a ℓ} (S : Setoid a ℓ) where
 
 open import Data.Nat.Base using (ℕ; zero; suc; _+_)
+import Data.Fin as F
```
Comment (jamesmckinna) [inline src/Data/Vec/Relation/Binary/Equality/Setoid.agda:15]: Seemingly, there's no need for the qualified `import`:
```agda
open import Data.Fin.Base using (Fin; zero; suc)
```
will do just fine, and the overloading of the constructors `zero` and `suc` is harmless here as regards parsing/typechecking.

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda [hunk 4]
```diff
@@ -51,6 +52,14 @@ open PW public using (length-equal)
...
 ≋-setoid = PW.setoid S
 
+------------------------------------------------------------------------
+-- cong
+
+cong-[]≔ : ∀ {n} {xs ys : Vec A n} i p → xs ≋ ys
+  → xs [ i ]≔ p ≋ ys [ i ]≔ p
+cong-[]≔ F.zero _ (_ ∷ eqn) = refl ∷ eqn
+cong-[]≔ (F.suc i) p (x∼y ∷ eqn) = x∼y ∷ (cong-[]≔ i p eqn)
+
```
Comment (jamesmckinna) [inline src/Data/Vec/Relation/Binary/Equality/Setoid.agda:62]: This lemma should move to the place of maximum generality, viz. in this instance `Data.Vec.Relation.Binary.Pointwise.Inductive`, eg as here (with the `Fin n` argument infixed; and the `p` argument could be made implicit?)
```agda
module _ {_∼_ : Rel A ℓ} (refl : Reflexive _∼_) where
  cong-[_]≔ : ∀ {n} i p {xs} {ys} →
               Pointwise _∼_ {n} {n} xs ys → Pointwise _∼_ {n} {n} (xs [ i ]≔ p) (ys [ i ]≔ p)
  cong-[ zero ]≔  p (_ ∷ eqn)   = refl ∷ eqn
  cong-[ suc i ]≔ p (x∼y ∷ eqn) = x∼y ∷ (cong-[ i ]≔ p eqn)
```

For the cost of an additional assumption of `Reflexive` for the underlying relation, so that when re-exported here, and instantiated with the underlying reflexivity of the `Setoid`, yields the lemma you want...

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda [hunk 5]
```diff
@@ -79,6 +88,12 @@ map-++ : ∀ {b m n} {B : Set b}
 map-++ f []       = ≋-refl
 map-++ f (x ∷ xs) = refl ∷ map-++ f xs
 
+map-[]≔ : ∀ {b n} {B : Set b}
+  i (f : B → A) (xs : Vec B n) p
+  → map f xs [ i ]≔ f p ≋ map f (xs [ i ]≔ p)
```
Comment (jamesmckinna) [inline src/Data/Vec/Relation/Binary/Equality/Setoid.agda:93]: The argument order in the conclusion is `f` then `xs` then `i` then `p`, so I would do the same in the quantifier prefix... and lift the `{b} {B : Set b}` outside past all of them...

File: CHANGELOG.md (hunk 1 above)
Comment (guilhermehas) [reply CHANGELOG.md]: I removed it.

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda (hunk 3 above)
Comment (guilhermehas) [reply src/Data/Vec/Relation/Binary/Equality/Setoid.agda]: It is not just opened with zero and suc.

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda (hunk 4 above)
Comment (guilhermehas) [reply src/Data/Vec/Relation/Binary/Equality/Setoid.agda]: I put your definition in Data.Vec.Relation.Binary.Pointwise.Inductive.

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda (hunk 5 above)
Comment (guilhermehas) [reply src/Data/Vec/Relation/Binary/Equality/Setoid.agda:85]: I changed the order of arguments.

File: CHANGELOG.md (hunk 2 above)
Comment (guilhermehas) [reply CHANGELOG.md]: I changed the order of this.

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda [hunk 6]
```diff
@@ -79,6 +80,12 @@ map-++ : ∀ {b m n} {B : Set b}
 map-++ f []       = ≋-refl
 map-++ f (x ∷ xs) = refl ∷ map-++ f xs
 
+map-[]≔ : ∀ {b n} {B : Set b}
+  (f : B → A) (xs : Vec B n) i p →
+  map f (xs [ i ]≔ p) ≋ map f xs [ i ]≔ f p
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Relation/Binary/Equality/Setoid.agda:85]: Can you align these as per the style guide (i.e in the same manner as the other function)?

**Review by MatthewDaggitt — COMMENTED** [review]
Other than that, looks good to me.

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda (hunk 6 above)
Comment (guilhermehas) [reply src/Data/Vec/Relation/Binary/Equality/Setoid.agda]: It is with the same indentation as `map-++`.

File: src/Data/Vec/Relation/Binary/Pointwise/Inductive.agda [hunk 7]
```diff
@@ -217,6 +217,16 @@ module _ {_∼_ : REL A B ℓ} where
   tabulate⁻ (f₀∼g₀ ∷ _)   zero    = f₀∼g₀
   tabulate⁻ (_     ∷ f∼g) (suc i) = tabulate⁻ f∼g i
 
+------------------------------------------------------------------------
+-- concat
```
Comment (gallais) [inline src/Data/Vec/Relation/Binary/Pointwise/Inductive.agda:221]: copy/pasted comment?

Comment (guilhermehas) [reply src/Data/Vec/Relation/Binary/Pointwise/Inductive.agda]: I renamed it to cong

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda (hunk 6 above)
Comment (MatthewDaggitt) [reply src/Data/Vec/Relation/Binary/Equality/Setoid.agda]: Err something is still wrong with the indentation. Are you using tabs or non-standard number of spaces in your editor?

Comment (guilhermehas) [reply src/Data/Vec/Relation/Binary/Equality/Setoid.agda]: Maybe are you looking at this outdated version?

I looked at this file using VSCode and it is just using whitespace, without tabs.
Also, looking at Github, it is the same that expect it to be.

Another possibility is that maybe I think it is idented right when it isn't.

File: src/Data/Vec/Relation/Binary/Equality/Setoid.agda [hunk 8]
```diff
@@ -79,6 +80,12 @@ map-++ : ∀ {b m n} {B : Set b}
 map-++ f []       = ≋-refl
 map-++ f (x ∷ xs) = refl ∷ map-++ f xs
 
+map-[]≔ : ∀ {b n} {B : Set b}
+                  (f : B → A) (xs : Vec B n) i p →
+                  map f (xs [ i ]≔ p) ≋ map f xs [ i ]≔ f p
```
Comment (gallais) [inline src/Data/Vec/Relation/Binary/Equality/Setoid.agda:85]:
```suggestion
map-[]≔ : ∀ {b n} {B : Set b}
          (f : B → A) (xs : Vec B n) i p →
          map f (xs [ i ]≔ p) ≋ map f xs [ i ]≔ f p
```

File: src/Data/Vec/Relation/Binary/Pointwise/Inductive.agda [hunk 9]
```diff
@@ -217,6 +217,16 @@ module _ {_∼_ : REL A B ℓ} where
   tabulate⁻ (f₀∼g₀ ∷ _)   zero    = f₀∼g₀
   tabulate⁻ (_     ∷ f∼g) (suc i) = tabulate⁻ f∼g i
 
+------------------------------------------------------------------------
+-- cong
+
+module _ {_∼_ : Rel A ℓ} (refl : Reflexive _∼_) where
+  cong-[_]≔ : ∀ {n} i p {xs} {ys} →
+               Pointwise _∼_ {n} xs ys →
+               Pointwise _∼_ (xs [ i ]≔ p) (ys [ i ]≔ p)
```
Comment (gallais) [inline src/Data/Vec/Relation/Binary/Pointwise/Inductive.agda:226]:
```suggestion
  cong-[_]≔ : ∀ {n} i p {xs} {ys} →
              Pointwise _∼_ {n} xs ys →
              Pointwise _∼_ (xs [ i ]≔ p) (ys [ i ]≔ p)
```
